US06797823B1
6-(Benzyloxy)-7-methoxy-3,4-dihydro-4-quinazolinone
Methyl 2-amino-5-(benzyloxy)-4-methoxybenzoate (5.0 g) was dissolved in N,N-dimethylformamide (150 ml) and methanol (30 ml). Formamide (3.5 ml) and sodium methoxide (2.8 g) were added to the solution. The mixture was heated to 100° C. and was then stirred overnight. The reaction solution was then cooled to room temperature, and 10 ml of water was then added. The reaction solution was neutralized with a 1 M aqueous hydrochloric acid solution to precipitate a solid. The solid was collected by filtration, was washed with water and ether, and was then dried through a vacuum pump to give 3.7 g (yield 76%) of the title compound. 1H-NMR (DMSO-d6, 400 MHz): δ 3.92 (s, 3H), 5.21 (s, 2H), 7.16 (s, 1H), 7.33-7.49 (m, 5H), 7.55 (s, 1H), 7.99 (s, 1H), 12.06 (br, 1H).

reactant | Methyl 2-amino-5-(benzyloxy)-4-methoxybenzoate | 5.0 g | NC1=C(C(=O)OC)C=C(C(=C1)OC)OCC1=CC=CC=C1 | C16H17NO4
reactant | Formamide | 3.5 ml | C(=O)N | CH3NO
reactant | sodium methoxide | 2.8 g | C[O-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 6-(Benzyloxy)-7-methoxy-3,4-dihydro-4-quinazolinone | 3.7 g, yield 76% | C(C1=CC=CC=C1)OC=1C=C2C(NC=NC2=CC1OC)=O | C16H14N2O3
